US04419355
Preparation of 2-methyl-1-oxo-pyrido[2,1-f]-as-triazinium iodide
6.0 g (0.024 moles) of 1-oxo-pyrido[2,1-f]-as-triazinium perchlorate are boiled in acetonitrile in the presence of 6 ml of methyl iodide and 3.4 ml of triethylamine for an hour. 5.6 g of desired compound are obtained.

reactant | 1-oxo-pyrido[2,1-f]-as-triazinium perchlorate | 0.024 moles, 6.0 g | Cl(=O)(=O)(=O)[O-].O=[N+]1N2C(=CN=C1)C=CC=C2
reactant | methyl iodide | 6 ml | CI | CH3I
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-methyl-1-oxo-pyrido[2,1-f]-as-triazinium iodide | 5.6 g, Yield: 80% | [I-].CC=1[N+](N2C(=CN1)C=CC=C2)=O | InChI=1S/C8H8N3O.HI/c1-7-9-6-8-4-2-3-5-10(8)11(7)12;/h2-6H,1H3;1H/q+1;/p-1
